US05804585
D. N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3- sulfonamide
The title compound was prepared by the method of Example 5(A) using N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide (0.11 g, 0.19 mmoles), CH2Cl2 (5 ml), triethyl silane (0.31 ml, 1.9 mmoles) and boron trifluoride etherate (0.12 ml, 0.97 mmoles). Flash chromatography (35% EtOAc/hexanes) provided 58 mg (53%) of the title compound as a tan solid.

reactant | N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)-2-[α-hydroxy-2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3-sulfonamide | 0.19 mmoles, 0.11 g | ClC=1C(=NOC1C)N(S(=O)(=O)C1=C(SC2=NC=CC=C21)C(C2=C(C=C1C(=C2)OCO1)C)O)COCCOC | C24H24ClN3O8S2
reactant | triethyl silane | 1.9 mmoles, 0.31 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | boron trifluoride etherate | 0.97 mmoles, 0.12 ml | B(F)(F)F.CCOCC
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | N-(4-chloro-5-methyl-3-isoxazolyl)-N-(methoxyethoxymethyl)-2-[2-methyl-4,5-(methylenedioxy)benzyl]thieno[2,3-b]pyridine-3- sulfonamide | 58 mg, 53% | ClC=1C(=NOC1C)N(S(=O)(=O)C1=C(SC2=NC=CC=C21)CC2=C(C=C1C(=C2)OCO1)C)COCCOC | C24H24ClN3O7S2
